US07893055B2
1,4,8-Trioxa-spiro[4.5]decane.
A mixture of tetrahydro-4-pyranone (10 g, 99.9 mmol), ethylene glycol (20 mL, 150 mmol) and catalytic toluene sulfonic acid was refluxed in benzene (120 mL) for 5 h. After cooling to room temp, the benzene layer was decanted from the dark oil in the bottom of the flask and was concentrated. The resulting oil was taken up in methylene chloride and shaken in a separatory funnel. The CH2Cl2 layer was decanted from the insoluble oil. The CH2Cl2 layer was concentrated to give the title compound as a pale yellow oil (11.62 g, 81% yield). 1H-NMR (300 MHz, CDCl3) δ: 3.91 (4H, s), 3.71 (4H, t, J=5.5 Hz), 1.68 (4H, t, J=5.7 Hz).

reactant | tetrahydro-4-pyranone | 99.9 mmol, 10 g | O1CCC(CC1)=O | C5H8O2
reactant | ethylene glycol | 150 mmol, 20 mL | C(CO)O | C2H6O2
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
product | 1,4,8-Trioxa-spiro[4.5]decane | 11.62 g, 81% yield | O1CCOC12CCOCC2 | C7H12O3
